US06288061B1
Ethyl 2-hydroxyimino-3-(4-methylphenyl)-3-oxopropionate (10.0 g) and 3-aminomethylpyridine (5.3 ml) were reacted and treated in the same manner as in Starting Material Synthetic Example 1 to give ethyl 5-(4-methylphenyl)-2-(3-pyridyl)imidazole-4-carboxylate (4.0 g). 0.5 g therefrom was dissolved in ethyl alcohol (10 ml), and the mixture was reacted and treated in the same manner as in Starting Material Synthetic Example 2 to give 5-(4-methylphenyl)-2-(3-pyridyl)-imidazole-4-carboxylic acid (0.39 g), melting point 140-142° C.

reactant | Ethyl 2-hydroxyimino-3-(4-methylphenyl)-3-oxopropionate | 10.0 g | ON=C(C(=O)OCC)C(=O)C1=CC=C(C=C1)C | C12H13NO4
reactant | 3-aminomethylpyridine | 5.3 ml | NCC=1C=NC=CC1 | C6H8N2
product | ethyl 5-(4-methylphenyl)-2-(3-pyridyl)imidazole-4-carboxylate | 4.0 g | CC1=CC=C(C=C1)C1=C(N=C(N1)C=1C=NC=CC1)C(=O)OCC | C18H17N3O2
